US05917057
A solution containing 30.2 g of potassium hydroxide in 150 ml 95% ethanol was added to 2-[4-(2-ethoxycarbonyl-2-methylpropyl)phenoxymethyl]benzoic acid ethyl ester (20.3 g) and warmed to reflux for 8 hours. The solution was cooled, diluted with water and adjusted to pH 5 with 6N HCl. Cooling overnight gave a precipitate which was collected and air dried to give 15.9 g of 2-[4-(2-carboxy-2-methylpropyl)phenoxymethyl]benzoic acid as a powder.

reactant | potassium hydroxide | 30.2 g | [OH-].[K+]
reactant | 2-[4-(2-ethoxycarbonyl-2-methylpropyl)phenoxymethyl]benzoic acid ethyl ester | 20.3 g | C(C)OC(C1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)(C)C(=O)OCC)=O | C23H28O5
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-[4-(2-carboxy-2-methylpropyl)phenoxymethyl]benzoic acid | 15.9 g | C(=O)(O)C(CC1=CC=C(OCC2=C(C(=O)O)C=CC=C2)C=C1)(C)C | C19H20O5
